US07375099B2
2-Methyl-N-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-N′-(3-trifluoromethyl-benzyl)-malonamide
The title compound, MS: m/e=523.4 (M+H+), was prepared in analogy to example 16 from 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one and 2-methyl-N-(3-trifluoromethyl-benzyl)-malonamic acid.

reactant | 3-amino-1,3-dihydro-1-methyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)C)=O | C16H15N3O
reactant | 2-methyl-N-(3-trifluoromethyl-benzyl)-malonamic acid | CC(C(=O)O)C(=O)NCC1=CC(=CC=C1)C(F)(F)F | C12H12F3NO3
product | 2-Methyl-N-(1-methyl-2-oxo-5-phenyl-2,3-dihydro-1H-benzo[e][1,4]diazepin-3-yl)-N′-(3-trifluoromethyl-benzyl)-malonamide | CC(C(=O)NC1N=C(C2=C(N(C1=O)C)C=CC=C2)C2=CC=CC=C2)C(=O)NCC2=CC(=CC=C2)C(F)(F)F | C28H25F3N4O3
